US05484942
0.03 g of hydroxybenzotriazole hydrate is added to a solution, cooled to 0° C., of 1.06 g of (1R*, 4aR*, 7aR*) -(-) -4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1-oxide and 0.81 g of 2-[(3-dimethylamino-2-propoxy)phenyl]acetic acid in 60 cm3 of dry dichloromethane, followed by 0.77 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide. After stirring for 2 hours at 0° C. and 20 hours at 20° C., the reaction mixture is washed with 20 cm3 of water and then dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 2.4 cm, height 35 cm), eluting under a nitrogen pressure of 0.6 bar with an ethyl acetate, acetic acid and water mixture (60/10/10 by volume) and collecting fractions of 50 cm3. Fractions 8 to 19 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 60 cm3 of dichloromethane, the solution is washed with 20 cm3 of a 1N aqueous solution of sodium hydroxide, dried over magnesium sulphate and then concentrated to dryness. The solid obtained is recrystallized from an ethyl acetate and ethyl ether mixture, the crystals are washed with diisopropyl oxide, drained and dried. 0.99 g of (1R*,4aR*,7aR*)-(-)-6-{2-[(3-dimethylamino2-propoxy)phenyl]acetyl}-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1-oxide is obtained in the form of a white solid; melting point 120° C. [α]D20 =-323° ; (c=0.5; acetic acid).

reactant | hydroxybenzotriazole hydrate | 0.03 g | O.OC1=CC=CC=2NN=NC21
reactant | (-) -4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1-oxide | C1(=CC=CC=C1)C1(CCS(C2CNCC21)=O)C2=CC=CC=C2 | C19H21NOS
reactant | 2-[(3-dimethylamino-2-propoxy)phenyl]acetic acid | 0.81 g | CN(CC(C)OC1=C(C=CC=C1)CC(=O)O)C | C13H19NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.77 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | 60 cm3 | ClCCl | CH2Cl2
product | (1R*,4aR*,7aR*)-(-)-6-{2-[(3-dimethylamino2-propoxy)phenyl]acetyl}-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1-oxide | 0.99 g | CN(CC(C)OC1=C(C=CC=C1)CC(=O)N1C[C@H]2[C@@H](C1)C(CC[S@]2=O)(C2=CC=CC=C2)C2=CC=CC=C2)C | C32H38N2O3S
